* D:\projects\dc-motor-controller\spice\h-bridge-minimal.asc
M1 12V fwd_high N008 N008 IRFZ44N
M2 N008 rev_low 0 0 IRFZ44N
M3 12V rev_high N010 N010 IRFZ44N
M4 N010 fwd_low 0 0 IRFZ44N
V1 12V 0 12
V2 N012 0 PULSE(0 3.3 0 1n 1n 50u 100u)
R1 N013 N012 1k
Q1 N007 N013 0 0 BC547B
R2 N003 N007 500
D1 12V N003 1N4148
C1 N003 N008 1µ
R3 fwd_high N007 22
R4 N010 N009 10
Q4 N016 N018 0 0 BC547B
R7 12V N016 500
R8 fwd_low N016 22
R5 N018 N012 1k
V3 NC_01 0 3.3
R6 N014 N015 1k
Q7 N011 N014 0 0 BC547B
R9 N006 N011 500
R10 rev_high N011 22
Q10 N017 N019 0 0 BC547B
R11 12V N017 500
R12 rev_low N017 22
R13 N019 N015 1k
D2 12V N006 1N4148
C2 N006 N010 1µ
L1 N009 N008 10µ
R14 rev_high 0 2.2k
R15 rev_low 0 2.2k
R16 N006 N014 1k
R17 12V N019 1k
.model D D
.lib C:\Users\biopl\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\biopl\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\biopl\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m
.backanno
.end
